US05688803
9-Fluoro-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione
3.7 g (0.014 mol) of ethyl 6-fluoro-2-hydroxy-quinazolin-4-yl-carbazate in 75 ml of dimethylformamide were boiled under reflux for 2 hrs. The reaction mixture was cooled to room temperature and then poured on to ice-water. The precipitate was filtered off, washed with acetone and dried in a vacuum. Yield: 1.7 g (56%) of 9-fluoro-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione as yellowish crystals; m.p. >350° C.

reactant | ethyl 6-fluoro-2-hydroxy-quinazolin-4-yl-carbazate | 0.014 mol, 3.7 g | FC=1C=C2C(=NC(=NC2=CC1)O)N(C(=O)OCC)N | C11H11FN4O3
reactant | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 9-Fluoro-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione | FC1=CC=2C=3N(C(NC2C=C1)=O)C(NN3)=O | C9H5FN4O2
